US08426447B2
A 25-mL RBF was charged with cesium carbonate (0.371 g, 1.138 mmol) and (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.336 g, 0.948 mmol) in DMF (4.74 mL). The resulting mixture was stirred for 10 min, then the flask was submerged in an ice-bath for 5 min. n-phenyltrifluoromethanesulfonimide (0.373 g, 1.043 mmol) was added as a single portion and the reaction was allowed to warm to RT overnight. The reaction was cooled in an ice bath and 150 mg of cesium carbonate was added. The reaction was stirred for 10 minutes, then 40 mg of n-phenyltrifluoromethanesulfonimide was added and the reaction was stirred for one hour. The mixture was diluted with water and extracted twice with EtOAc (a little brine was added to help with emulsion). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The material was purified via column chromatography (RediSep 40 g, gradient elution 0-7% MeOH:DCM w/1% NH4OH) to afford (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate as an off-white solid.

reactant | cesium carbonate | 1.138 mmol, 0.371 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.948 mmol, 0.336 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)N1CCOCC1)O | C18H18N4O4
reactant | n-phenyltrifluoromethanesulfonimide | 1.043 mmol, 0.373 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | cesium carbonate | 150 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | n-phenyltrifluoromethanesulfonimide | 40 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 4.74 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)N1CCOCC1)(F)F | C19H17F3N4O6S
